US06232475B1
Preparation of the Intermediate N-vinylphthalimide (not according to the invention)
Over a period of 2 hours, 2.3 g of 1,8-diazabicyclo-[5.4.0]-undec-7-ene were added dropwise to a solution of 3.5 kg of N-(2-bromoethyl)phthalimide in 9.6 l of N,N-dimethylacetamide. During the addition, the temperature increased to 50° C. After the addition had ended, stirring was continued for 17 hours. The batch was poured into 29 l of water and filtered, and the filtration residue was dried at from 30 to 40° C. This gave 1.95 kg of product (=82% of theory) of melting point 79-80° C.

reactant | 1,8-diazabicyclo-[5.4.0]-undec-7-ene | 2.3 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N-(2-bromoethyl)phthalimide | 3.5 kg | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | water | 29 l | O | H2O
solvent | N,N-dimethylacetamide | 9.6 l | CN(C(C)=O)C | C4H9NO
product | N-vinylphthalimide | C(=C)N1C(C=2C(C1=O)=CC=CC2)=O | C10H7NO2
